US04650609
(Trimethylammoniomethyl)ferricinium bis(tetrafluoroborate) was prepared by the following procedure. A slurry of 7.47 g of trimethyloxonium tetrafluoroborate (50.6 mmol) in 125 mL of CH2Cl2 was added to 10 mL of dimethylaminomethylferrocene in 100 mL of the same solvent. The resulting mixture was stirred for 16 hours and the solvent was removed under reduced pressure. The resulting residue was recrystallized from hot water to give 13.62 g of (trimethylammoniomethyl)ferrocene tetrafluoroborate as golden-yellow platelets. 1.32 g of the (trimethylammoniomethyl)ferrocene tetrafluoroborate (8 mmol) were added to a mixture of 0.864 g of p-benzoquinone (8 mmol) and 2.16 mL of 48% aqueous tetrafluoroboric acid (16 mmol) in 60 mL of diethyl ether. The resulting mixture was stirred for 15 minutes and filtered to give a dark blue-black residue which was washed with ether until the washings were colorless to remove quinhydrone and dried under reduced pressure to give 1.69 g of (trimethyl-ammoniomethyl)ferricinium bis(tetrafluoroborate) (3.9 mmol) as a navy-blue solid, which decomposed at high temperature without a characteristic melting point.

reactant | trimethyloxonium tetrafluoroborate | 50.6 mmol, 7.47 g | F[B-](F)(F)F.C[O+](C)C
reactant | dimethylaminomethylferrocene | 10 mL | CN(C)C[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
solvent | CH2Cl2 | 125 mL | C(Cl)Cl | CH2Cl2
product | (trimethylammoniomethyl)ferrocene tetrafluoroborate | 13.62 g | F[B-](F)(F)F.C[N+](C)(C)C[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C9H15N.C5H5.BF4.Fe/c1-10(2,3)8-9-6-4-5-7-9;1-2-4-5-3-1;2-1(3,4)5;/h4-7H,8H2,1-3H3;1-5H;;/q;2*-1;+2
